US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (2 g) and 4-(benzylsulfonyl)butyl chloride (1.46 g) were reacted and treated in the same manner as in Example 199 to give 0.96 g of 4-amino-N-((1-(4-(benzylsulfonyl)butyl)piperidin-4-yl)-methyl)-5-chloro-2-methoxybenzamide hydrochloride.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 2 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 4-(benzylsulfonyl)butyl chloride | 1.46 g | C(C1=CC=CC=C1)S(=O)(=O)CCCCCl | C11H15ClO2S
product | 4-amino-N-((1-(4-(benzylsulfonyl)butyl)piperidin-4-yl)-methyl)-5-chloro-2-methoxybenzamide hydrochloride | 0.96 g | Cl.NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCS(=O)(=O)CC2=CC=CC=C2)C=C1Cl)OC | InChI=1S/C25H34ClN3O4S.ClH/c1-33-24-16-23(27)22(26)15-21(24)25(30)28-17-19-9-12-29(13-10-19)11-5-6-14-34(31,32)18-20-7-3-2-4-8-20;/h2-4,7-8,15-16,19H,5-6,9-14,17-18,27H2,1H3,(H,28,30);1H
